US09340538B2
Step A: Ethyl 4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate
5-fluorothiazole-2-carboximidamide acetate (0.25 g, 1.22 mmol) was reacted with 2,4-dichlorobenzaldehyde (0.21 g, 1.22 mmol) and ethyl 3-oxobutanoate (0.16 g, 1.22 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (0.41 g, 80%). The compound was characterized by the following spectroscopic data:

reactant | 5-fluorothiazole-2-carboximidamide acetate | 1.22 mmol, 0.25 g | C(C)(=O)O.FC1=CN=C(S1)C(N)=N
reactant | 2,4-dichlorobenzaldehyde | 1.22 mmol, 0.21 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | ethyl 3-oxobutanoate | 1.22 mmol, 0.16 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2,4-dichlorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 0.41 g, 80% | ClC1=C(C=CC(=C1)Cl)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)F | C17H14Cl2FN3O2S
